US06936608B2
To 2-(5-bromo-2-fluorophenyl)-5-fluoropyridine (0.94 g, 3.48 mmol) and bis(neopentyl glycolato)diboron (0.943 g) in 1,4-dioxane (12 ml) and dimethylsulfoxide (1.5 ml) was added potassium acetate (0.725 g) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (100 mg). The mixture was degassed with nitrogen and then stirred at 85° C. for 15 h. On cooling to ambient temperature, 1 N aqueous sodium hydroxide (32 ml) was added and the mixture stirred for 20 min. Diethyl ether was added and the aqueous phase separated and washed with diethyl ether. The organic extracts were washed with water and the combined aqueous phases filtered then acidified to pH 5 by addition of 2 N aqueous hydrochloric acid (18 ml). The resulting white solid was collected by filtration, washed with water and dried in vacuo to afford 4-fluoro-3-(5-fluoropyridin-2-yl)phenylboronic acid: 1H NMR (400 MHz, DMSO-d6) 868.73 (1H, dd, J 2 and 1), 8.33 (1H, dd, J 9 and 2), 8.17 (2H, s), 7.87 (3H, m), 7.31 (1H, dd, J 12 and 8).

reactant | 2-(5-bromo-2-fluorophenyl)-5-fluoropyridine | 3.48 mmol, 0.94 g | BrC=1C=CC(=C(C1)C1=NC=C(C=C1)F)F | C11H6BrF2N
reactant | bis(neopentyl glycolato)diboron | 0.943 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 0.725 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 100 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-fluoro-3-(5-fluoropyridin-2-yl)phenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=NC=C(C=C1)F | C11H8BF2NO2
